US04127720
6,7-Dihydro-10-hydroxy-4-oxo-4H-pyrimido[2,1-a]isoquinoline-3-carboxylic Acid (acid hydrolysis of corresponding ester)
A solution of ethyl 6,7-dihydro-10-methoxy-4-oxo-4H-pyrimido[2,1-a]isoquinoline-3-carboxylate (5.0 g., 0.0175 mole) in 48% hydrobromic acid (125 ml.) was refluxed for 4 hours. The solution was cooled and the yellow product collected, washed with water, and dissolved in warm 0.5 N NaOH (80 ml.). The basic solution was treated with decolorizing carbon, filtered and the filtrate acidified with hydrochloric acid. The precipitated material was washed on the filter successively with water, ethanol and acetone to give 3.5 g. (81% yield) of the title acid, m.p. 326°-327°.

reactant | ethyl 6,7-dihydro-10-methoxy-4-oxo-4H-pyrimido[2,1-a]isoquinoline-3-carboxylate | 0.0175 mole, 5.0 g | COC1=CC=C2CCN3C(C2=C1)=NC=C(C3=O)C(=O)OCC | C16H16N2O4
solvent | hydrobromic acid | 125 ml | Br | BrH
product | 6,7-Dihydro-10-hydroxy-4-oxo-4H-pyrimido[2,1-a]isoquinoline-3-carboxylic Acid | 81% yield | OC1=CC=C2CCN3C(C2=C1)=NC=C(C3=O)C(=O)O | C13H10N2O4
